US07816371B2
e. 2-(6-Chloro-5-nitro-1-oxoisoquinolin-2(1H)-yl)ethyl acetate
A round bottom flask was charged with 6-chloro-2-(2-hydroxyethyl)-5-nitroisoquinolin-1(2H)-one (400.0 mg, 0.00149 mol), acetic anhydride (0.21 mL, 0.0022 mol), pyridine (0.18 mL, 0.0022 mol) and methylene chloride (20 mL, 0.2 mol) and the reaction stirred at room temperature over night. The solvent was removed to obtain the product as a yellow solid. MS m/z=311.3 (M+H).

reactant | 6-chloro-2-(2-hydroxyethyl)-5-nitroisoquinolin-1(2H)-one | 0.00149 mol, 400.0 mg | ClC=1C(=C2C=CN(C(C2=CC1)=O)CCO)[N+](=O)[O-] | C11H9ClN2O4
reactant | acetic anhydride | 0.0022 mol, 0.21 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.0022 mol, 0.18 mL | N1=CC=CC=C1 | C5H5N
reactant | methylene chloride | 0.2 mol, 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(6-Chloro-5-nitro-1-oxoisoquinolin-2(1H)-yl)ethyl acetate | C(C)(=O)OCCN1C(C2=CC=C(C(=C2C=C1)[N+](=O)[O-])Cl)=O | C13H11ClN2O5
